US08138205B2
1-Methylpiperazine (0.5 mL, 4.5 mmol) was added to a solution of 8-(3-bromopropoxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxyquinolin-2(1H)-one (150 mg, 0.32 mmol) and DMSO (2 mL) at room temperature. After 15 h, the reaction was placed under vacuum (˜0.1 Torr, 24h) to remove the excess amine. The resulting solution was purified by reverse-phase HPLC to give 4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-8-(3-(4-methylpiperazin-1-yl)propoxy)quinolin-2(1H)-one. 1H NMR (400 MHz, DMSO-d6, bis HCl salt): δ 12.01 (br, 2H), 10.80 (br, 1H), 9.21 (s, 1H), 8.79 (s, 2H), 8.01 (d, 1H), 7.15 (d, 1H), 4.94 (s, 1H), 4.04 (t, 2H), 3.95 (s, 3H), 3.90-3.60 (br m, 4H), 3.60-3.34 (br m, 6H), 2.82 (s, 3H), 2.25 (m, 2H); MS (ESI): 492.3.

reactant | 1-Methylpiperazine | 4.5 mmol, 0.5 mL | CN1CCNCC1 | C5H12N2
reactant | 8-(3-bromopropoxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxyquinolin-2(1H)-one | 0.32 mmol, 150 mg | BrCCCOC=1C(=CC=C2C(=CC(NC12)=O)NC1=C(C=NC=C1Cl)Cl)OC | C18H16BrCl2N3O3
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-8-(3-(4-methylpiperazin-1-yl)propoxy)quinolin-2(1H)-one | ClC=1C=NC=C(C1NC1=CC(NC2=C(C(=CC=C12)OC)OCCCN1CCN(CC1)C)=O)Cl | C23H27Cl2N5O3
